US07592457B2
2-(phenyl-propionylamino)-benzoic acid methyl ester
The objective compound was prepared by the same procedure for the intermediate 1, using a 2-phenyl-propionic acid (2.00 g, 13.3 mmol), SOCl2 (2.88 mL, 40.0 mmol) and 2-amino benzoic acid methyl ester (1.40 g, 9.31 mmol). After normal workup, the pure objective compound (2.50 g, 95%) was obtained as a pale yellow syrup by a flash column chromatography (n-hexane:EtOAc=20:1): 1H NMR (200 MHz, CDCl3) 51.60 (d, J=6.92 Hz, 3H, COCHCH3), 3.72-3.87 (m, 4H, OCH3, CH), 7.07 (td, J=6.10 Hz, 1.22 Hz, 1H, ArH), 7.23-7.55 (m, 6H, ArH), 7.95 (dd, J=7.73 Hz, 1.63 Hz, 1H, ArH), 8.69 (dd, J=8.55 Hz, 1.22 Hz, 1H, ArH).

reactant | 2-phenyl-propionic acid | 13.3 mmol, 2.00 g | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
reactant | SOCl2 | 40.0 mmol, 2.88 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-amino benzoic acid methyl ester | 9.31 mmol, 1.40 g | COC(C1=C(C=CC=C1)N)=O | C8H9NO2
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(phenyl-propionylamino)-benzoic acid methyl ester | 2.50 g, 95% | COC(C1=C(C=CC=C1)N(C(CC)=O)C1=CC=CC=C1)=O | C17H17NO3
